US08114877B2
9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid [2-(3-phenethyl-ureido)-ethyl]-amide
The titled compound is prepared from 9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide using an analogous procedure to Example 42 by replacing N-[1-(2-pyridinyl)-4-piperidinyl]-1H-imidazole-1-carboxamide with imidazole-1-carboxylic acid phenethyl-amide.

reactant | 9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CO)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C31H35N9O4
reactant | imidazole-1-carboxylic acid phenethyl-amide | C(CC1=CC=CC=C1)NC(=O)N1C=NC=C1 | C12H13N3O
product | 9-[(1R,2S,3R,4S)-2,3-Dihydroxy-4-(4-hydroxymethyl-pyrazol-1-yl)-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purine-2-carboxylic acid [2-(3-phenethyl-ureido)-ethyl]-amide | C(CC1=CC=CC=C1)NC(NCCNC(=O)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)N1N=CC(=C1)CO)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C40H44N10O5
